US07902369B2
1) Manufacture of 1-(2,6-dimethoxy-3-pyridyl)propane-1-one
Under nitrogen atmosphere, 15% hexane solution of triethyl aluminium was dropped at 0° C. to 26 m solution of toluene with 0.6 ml of N,N′-dimethyl-ethan-1,2-diamine, and the mixture was stirred at room temperature for 1 hour. Then, 5 ml solution of toluene with 1 g of 2,6-dimethoxy-nicotinic acid methylester was dropped at room temperature, and the mixture was stirred at 130° C. for 1 hour. The reaction solution was cooled down under ice temperature, 1M of hydrochloric acid was added, and extracted with ethyl acetate. Ethyl acetate layer was washed with saturated saline solution, dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure to obtain 156 mg of the above compound.

reactant | triethyl aluminium | C(C)[Al](CC)CC
reactant | N,N′-dimethyl-ethan-1,2-diamine | 0.6 ml | CNCCNC | C4H12N2
reactant | 2,6-dimethoxy-nicotinic acid methylester | 1 g | COC(C1=C(N=C(C=C1)OC)OC)=O | C9H11NO4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 1-(2,6-dimethoxy-3-pyridyl)propane-1-one | 156 mg | COC1=NC(=CC=C1C(CC)=O)OC | C10H13NO3
